US07375101B2
3-Amino-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 7, 3-azido-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one (1.47 g, 4.49 mmol) and PS—PPh3 (16.4 g of 1.37 mmol/g, 22.4 mmol) were combined. After workup and purification by “catch and release,” the title compound was obtained as a slightly brown solid (1.46 g, quantitative). 1H-NMR (CDCl3): δ 8.76 (d, J=2.4 Hz, 1H), 8.72 (dd, J=1.6 Hz, J=5.2 Hz, 1H), 8.06 (dt, J=2.4 Hz, J=7.6 Hz, 1H), 7.58 (dd, J=2.4 Hz, J=8.8 Hz, 1H), 7.40 (dd, J=4.8 Hz, J=8.0 Hz, 1H), 7.35 (d, J=8.8 Hz, 1H), 7.29 (d, J=2.4 Hz, 1H), 4.51 (s, 1H), 3.46 (s, 3H), 2.41 (br s, 2H). MS (ESI) (M+H)+=301.

reactant | 3-azido-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one | 4.49 mmol, 1.47 g | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C=1C=NC=CC1)C=C(C=C2)Cl)C)=O | C15H11ClN6O
reactant | PPh3 | 22.4 mmol, 16.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 3-Amino-7-chloro-1,3-dihydro-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C=1C=NC=CC1)C=C(C=C2)Cl)C)=O | C15H13ClN4O
